US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-[4-(4-methylpiperazine-1-carbonyl)phenyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
4-[1-(2-Chloro-3,6-difluorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid (13 mg) was reacted with 1-methyl piperazine as in General Procedure 8 to give the title compound as an off-white foam (45% yield). M.p. (foam), LCMS: m/z=512.07 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 2.30-2.43 (m, 2H), 2.83 (s, 3H), 3.06-3.18 (m, 2H), 3.21-3.33 (m, 2H), 3.40-3.48 (m, 2H), 4.08 (s, 2H), 5.39 (s, 2H), 7.28 (bs, 1H), 7.22-7.32 (m, 1H), 7.46 (s, 1H), 7.50 (d, J=8.3 Hz, 2H), 7.62 (d, J=8.3 Hz, 2H), 8.05 (s, 1H).

reactant | 4-[1-(2-Chloro-3,6-difluorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid | 13 mg | ClC1=C(CN2C3=C(NCC2=O)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C(=CC=C1F)F | C21H14ClF2N3O3
reactant | 1-methyl piperazine | CN1CCNCC1 | C5H12N2
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-[4-(4-methylpiperazine-1-carbonyl)phenyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 45% yield | ClC1=C(CN2C3=C(NCC2=O)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C)C(=CC=C1F)F | C26H24ClF2N5O2
